US03957997
98.15 G. (1.0 mole) of cyclohexanone, 130 g. (1.0 mole) of ethylacetoacetate and 77.1 g. (1.0 mole) of ammonium acetate are heated at reflux for 14 hours. The reaction mixture is cooled in ice and diluted with water. The resultant precipitate is collected by filtration, washed with ether and dried in air affording 8.0 g (5%) of 2-hydroxy-4-methyl-5,6,7,8-tetrahydroquinoline, m.p. 250°-252°C.

reactant | cyclohexanone | 1.0 mole | C1(CCCCC1)=O | C6H10O
reactant | ethylacetoacetate | 1.0 mole | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | ammonium acetate | 1.0 mole | C(C)(=O)[O-].[NH4+]
solvent | water | O | H2O
product | 2-hydroxy-4-methyl-5,6,7,8-tetrahydroquinoline | 8.0 g, 5% | OC1=NC=2CCCCC2C(=C1)C | C10H13NO
